US05037829
To a stirred solution of 7.5 parts of 4-amino-3-nitro-α-phenylbenzenemethanol, 0.1 parts of a dispersion of sodium hydride in mineral oil (50%) and 90 parts of tetrahydrofuran were added 6.4 parts of 1,1'carbonylbis[1H-imidazole]. After stirring for 1 hour at reflux temperature, the reaction mixture was evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 93:7). The eluent of the desired fraction was evaporated and the residue was crystallized from methylbenzene. The product was dried for 2 hours at 80° C., yielding 6.33 parts (71%) of 4-[(1-H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine (interm. 51).

reactant | 4-amino-3-nitro-α-phenylbenzenemethanol | NC1=C(C=C(C=C1)C(O)C1=CC=CC=C1)[N+](=O)[O-] | C13H12N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 1,1'carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[(1-H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine | 71% | N1(C=NC=C1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])C1=CC=CC=C1 | C16H14N4O2
